US04826847
5-(2,3-Epoxypropoxy)-3-isopropylindolinone
18 g. 5-Hydroxy-3-isopropylindolinone are dissolved in 150 ml. ethanol, 22 ml. epichlorohydrin are added thereto, the mixture is mixed with 5.3 g. potassium hydroxide in 5 ml. water and the reaction mixture is stirred for 2 days at ambient temperature. After the addition of 200 ml. water, the reaction mixture is extracted with ethyl acetate and the extract purified over a column of silica gel with methylene chloride/methanol (95:5 v/v). There are obtained 11 g. of the title compound; yield 50% of theory; m.p. 122°-125° C., after recrystallisation from diethyl ether.

reactant | 5-Hydroxy-3-isopropylindolinone | OC=1C=C2C(C(NC2=CC1)=O)C(C)C | C11H13NO2
reactant | ethanol | C(C)O | C2H6O
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 5-(2,3-Epoxypropoxy)-3-isopropylindolinone | yield 50% | O1C(COC=2C=C3C(C(NC3=CC2)=O)C(C)C)C1 | C14H17NO3
